US07498337B2
N-methyl-1-[5-(4-methyl-3-thienyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methanamine fumarate
By a similar reaction as in Example 59 and using tert-butyl {[5-(4-methyl-3-thienyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (943 mg), the title compound was obtained as colorless crystals (yield 553 mg, 57%). More specifically, tert-butyl{[5-(4-methyl-3-thienyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (943 mg) was dissolved in trifluoroacetic acid (3 mL), and the mixture was stirred at room temperature for 30 min. The reaction mixture was basified with a saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: hexane-ethyl acetate=1:9) to give a free salt of the title compound as a colorless oil (yield 631 mg). A solution of the obtained free salt in ethyl acetate (5 mL) was added to a solution of fumaric acid (211 mg) in methanol (2 mL), and the mixture was concentrated under reduced pressure. The residue was recrystallized from ethanol-water to give the title compound as colorless crystals (yield 553 mg, 57%).

reactant | tert-butyl{[5-(4-methyl-3-thienyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 943 mg | C(C)(C)(C)OC(N(C)CC1=CN(C(=C1)C1=CSC=C1C)S(=O)(=O)C=1C=NC=CC1)=O | C21H25N3O4S2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-methyl-1-[5-(4-methyl-3-thienyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methanamine fumarate | yield 631 mg | C(\C=C\C(=O)O)(=O)O.CNCC1=CN(C(=C1)C1=CSC=C1C)S(=O)(=O)C=1C=NC=CC1 | InChI=1S/C16H17N3O2S2.C4H4O4/c1-12-10-22-11-15(12)16-6-13(7-17-2)9-19(16)23(20,21)14-4-3-5-18-8-14;5-3(6)1-2-4(7)8/h3-6,8-11,17H,7H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
